US04692444
A mixture of 8-methoxy-1,4-dihydro[1]benzothiopyrano[4,3-c]pyrazole (6.75 g) and 47% hydrobromic acid (70.2 ml) was refluxed for 3 hours with stirring and allowed to cool to room temperature. The resulting precipitate was collected by filtration and recrystallized from water to give the salt, which was treated with aqueous sodium bicarbonate to give 8-hydroxy-1,4dihydro[1]benzothiopyrano[4,3-c]pyrazole (4.73 g).

reactant | 8-methoxy-1,4-dihydro[1]benzothiopyrano[4,3-c]pyrazole | 6.75 g | COC=1C=CC2=C(C1)C=1NN=CC1CS2 | C11H10N2OS
reactant | hydrobromic acid | 70.2 ml | Br | BrH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 8-hydroxy-1,4dihydro[1]benzothiopyrano[4,3-c]pyrazole | 4.73 g | OC=1C=CC2=C(C1)C=1NN=CC1CS2 | C10H8N2OS
